US05457105
Isopropyl bromide (0.246 g) was added to a stirred mixture of 7-hydroxy-6-methoxy-4-(3'-methylanilino)quinazoline (0.281 g), potassium carbonate (0.414 g) and DMA (3 ml). The mixture was stirred at ambient temperature for 30 minutes and then heated to 70° C. for 1 hour. The mixture was partitioned between ethyl acetate and water. The organic phase was dried (MgSO4) and evaporated to give 7-isopropoxy-6-methoxy-4-(3'-methylanilino)quinazoline (0.28 g), m.p. 218°-221° C. NMR Spectrum: (CD3SOCD3) 1.36 (d, 6H), 2.34 (s, 3H), 3.94 (s, 3H), 4.83 (m, 1H), 6.94 (d, 1H), 7.17 (s, 1H), 7.27 (t, 1H), 7.57 (s, 1H), 7.64 (d, 1H), 7.82 (s, 1H), 8.43 (s, 1H); Elemental Analysis: Found C, 69.4; H, 6.7; N, 12.0; C19H21N3O2. 0.3H2O. 0.1EtOAc requires C, 69.0; H, 6.6; N, 12.4%.

reactant | Isopropyl bromide | 0.246 g | C(C)(C)Br | C3H7Br
reactant | 7-hydroxy-6-methoxy-4-(3'-methylanilino)quinazoline | 0.281 g | OC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C)OC | C16H15N3O2
reactant | potassium carbonate | 0.414 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 3 ml | CC(=O)N(C)C | C4H9NO
product | 7-isopropoxy-6-methoxy-4-(3'-methylanilino)quinazoline | 0.28 g | C(C)(C)OC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C)OC | C19H21N3O2
